US05366987
N-(2,6-Bis(1-methylethyl)phenyl)- 2-dodecyl-2H-tetrazole-5-propanamide
In a manner similar to Example 34, 2-dodecyl-2H-tetrazole-5-propanoic acid was condensed with 2,6-bis(1-methylethyl)aniline to give the title compound, mp 41°-43° C.

reactant | 2-dodecyl-2H-tetrazole-5-propanoic acid | C(CCCCCCCCCCC)N1N=C(N=N1)CCC(=O)O | C16H30N4O2
reactant | 2,6-bis(1-methylethyl)aniline | CC(C)C1=C(N)C(=CC=C1)C(C)C | C12H19N
product | N-(2,6-Bis(1-methylethyl)phenyl)- 2-dodecyl-2H-tetrazole-5-propanamide | CC(C)C1=C(C(=CC=C1)C(C)C)NC(CCC=1N=NN(N1)CCCCCCCCCCCC)=O | C28H47N5O
